US07626021B2
3-Amino-6-bromoanisole (3.67 g, 18.2 mmol) and di-tert-butyldicarbonate (4.36 g, 20 mmol) were dissolved in 50 mL dioxane. The mixture was refluxed for 48 h and concentrated. Bis(pinacolato)diboron (6.92 g, 27 mmol), 1,1′-bis(diphenylphosphino)ferrocenepalladium(II)-dichloride dichloromethane adduct (370 mg, 0.45 mmol) and anhydrous potassium acetate (6.54 g, 54.5 mmol) were added to the crude product and suspended in anhydrous DMF (80 mL) under an atmosphere of nitrogen. The mixture was stirred at 80° C. overnight. Purification by flash silica gel chromatography using a gradient of ethyl acetate and hexanes afforded 3.1 g (7.5 mmol, 41%) of [3-methoxy-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-carbamic acid tert-butyl ester as a white solid contaminated with 0.25 equivalents of bis(pinacolato)diboron. 1H NMR (500 MHz, DMSO-d6) δ 9.47 (s, 1H), 7.42 (d, J=8 Hz, 1H), 7.17 (d, J=1.5 Hz, 1H), 7.00 (dd, J1=8.5 Hz, J2=1.5 Hz, 1H), 3.67 (s, 3H), 1.47 (s, 9H), 1.24 (s, 12H); MS: m/z 350 [MH+]

reactant | 3-Amino-6-bromoanisole | 18.2 mmol, 3.67 g | NC=1C=C(C(=CC1)Br)OC | C7H8BrNO
reactant | di-tert-butyldicarbonate | 20 mmol, 4.36 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Bis(pinacolato)diboron | 27 mmol, 6.92 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 54.5 mmol, 6.54 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 0.25 equivalents | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
product | [3-methoxy-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-carbamic acid tert-butyl ester | 7.5 mmol, 3.1 g, 41% | C(C)(C)(C)OC(NC1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)OC)=O | C18H28BNO5
